US06162927
Ethyl 5-(1,3-dioxolyl)-3-oxopentanoate
The title compound was synthesized from ethyl acetoacetate and 2-bromomethyl-1,3-dioxane, according to the procedure of Huckin and Weiler, Tetrahedron Lett. 3927, (1971).

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 2-bromomethyl-1,3-dioxane | BrCC1OCCCO1 | C5H9BrO2
product | Ethyl 5-(1,3-dioxolyl)-3-oxopentanoate | O1C(OC=C1)CCC(CC(=O)OCC)=O | C10H14O5
